US07122546B2
KOH (6.9 g, 123 mmol) is added to a solution of 2-acetyl-3-methyl-2-propyl-succinic acid dimethyl ester (5.0 g, 20.5 mmol) in MeOH (25 ml) and water (25 ml). The mixture is refluxed overnight and excess MeOH is evaporated. The residue is acidified by concentrated HCl to pH=2 and is refluxed (oil bath 105° C.) overnight. The mixture is extracted with EtOAc (4×75 ml) and the combined extracts are extracted with 2N aqueous NaOH (4×50 ml). The NaOH solution is then cooled to 0° C. and acidified with concentrated HCl. The mixture is extracted with EtOAc (4×75 ml) and the combined extracts are washed with brine (100 ml), dried (Na2SO4) and evaporated in vacuo, providing 3-acetyl-2-methyl-hexanoic acid as a yellow oil.

reactant | KOH | 123 mmol, 6.9 g | [OH-].[K+]
reactant | 2-acetyl-3-methyl-2-propyl-succinic acid dimethyl ester | 20.5 mmol, 5.0 g | COC(C(C(C(=O)OC)C)(CCC)C(C)=O)=O | C12H20O5
solvent | MeOH | 25 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
product | 3-acetyl-2-methyl-hexanoic acid | C(C)(=O)C(C(C(=O)O)C)CCC | C9H16O3
